US05216167
Ethyl 2-ethoxy-4-[N-(1-(2-piperidino-phenyl)-4-penten-1-yl)-aminocarbonylmethyl]-benzoate
Prepared analogously to Example 47 from 1-(2-piperidino-phenyl)-4-penten-1-yl-amine and 3-ethoxy-4-ethoxycarbonyl-phenylacetic acid.

reactant | 1-(2-piperidino-phenyl)-4-penten-1-yl-amine | N1(CCCCC1)C1=C(C=CC=C1)C(CCC=C)N | C16H24N2
reactant | 3-ethoxy-4-ethoxycarbonyl-phenylacetic acid | C(C)OC=1C=C(C=CC1C(=O)OCC)CC(=O)O | C13H16O5
product | Ethyl 2-ethoxy-4-[N-(1-(2-piperidino-phenyl)-4-penten-1-yl)-aminocarbonylmethyl]-benzoate | C(C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(CCC=C)C1=C(C=CC=C1)N1CCCCC1 | C29H38N2O4
